US07786165B2
(6-{[(2-nitrophenyl)sulfonyl]amino}-1-benzofuran-3-yl)acetic acid
A mixture of N-[4-(chloromethyl)-2-oxo-2H-chromen-7-yl]-2-nitrobenzenesulfonamide (14.3 g, 36.2 mmol) and 1 M aqueous sodium hydroxide solution (120 mL) was stirred at room temperature for 24 hr. The reaction mixture was acidified with 1 M hydrochloric acid, and the mixture was extracted with a mixed solvent of ethyl acetate and tetrahydrofuran. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (13.6 g, quant.) as pale-brown crystals.

reactant | N-[4-(chloromethyl)-2-oxo-2H-chromen-7-yl]-2-nitrobenzenesulfonamide | 36.2 mmol, 14.3 g | ClCC1=CC(OC2=CC(=CC=C12)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C16H11ClN2O6S
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | sodium hydroxide | 1 M, 120 mL | [OH-].[Na+]
product | (6-{[(2-nitrophenyl)sulfonyl]amino}-1-benzofuran-3-yl)acetic acid | 13.6 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=CC2=C(C(=CO2)CC(=O)O)C=C1 | C16H12N2O7S
